Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Anorexia, nausea, vomiting, diffuse pruritus x 1 month, found to 
have hypertensive urgency
 
Major Surgical or Invasive Procedure:
Tunneled hemodialysis line placement 

 
History of Present Illness:
Mr. ___ is a ___ year-old male with history of diabetes 
mellitus (last A1c was 6.36% in ___ complicated by 
nephropathy, retinopathy, s/p PRP (___), HTN, HLD, CKD stage 
IV s/p RUE AVF placement (___), OSA, MDD, and schizophrenia 
who presents with anorexia, nausea, vomiting, and diffuse 
pruritis for 1 month. He has had relatively quick progressive 
renal dysfunction believed to be secondary to diabetic 
nephropathy. Patient has had multiple recent admissions related 
to volume overload. He was seen by his nephrologist, Dr ___ 
on ___ complaining of these same symtpoms. Dr. ___ 
___ Mr. ___ to be directly admitted for HD 
initiation, but he reports that he "had things to take care of." 
He reports that he is now ready to initiate HD. He denies chest 
pain, shortness of breath, dysuria, hematuria. He does note 
increased urine volume after increasing his diuretic. He has 
noticed a corresponding decrease in his ___ edema. He did not 
take his medications this morning however. Related to this, he 
has an occasional "funny" sensation on his right thumb, but no 
symptoms consistent with steal.  

The patient is additionally reporting orthopnea and paroxysmal 
nocturnal dyspnea. He denies chest pain, abdominal pain, bowel 
or bladder changes (although he does note dark urine lately). Pt 
had AVF placed on ___, which is not yet mature.  

 
Past Medical History:
-CHF/Cardiomyopathy: Mild systolic and severe diastolic 
dysfunction.  
-Diabetes  
-Hypertension  
-Hypercholesterolemia  
-CKD, stage 3  
-Depression/Schizophrenia  
-OSA  
 
Social History:
___
Family History:
Mother and maternal grandmother had diabetes and both used 
insulin.  Mother died of cancer. Grandfather (maternal) also has 
diabetes. Father is alive at ___. He does not know his father's 
health  status. No early CAD or sudden cardiac death.
 
Physical Exam:
On admission: 
Vitals - T: 98.5 BP: 190/94 HR: 80 RR: 16 02 sat: 99%RA  
Gen: Young man lying comfortably in bed, in no acute distress  
HEENT: No conjunctival pallor. No icterus. MMM. OP clear. 
Decreased vision in right eye.  
NECK: Supple, No LAD. JVP 12. Normal carotid upstroke without 
bruits. No thyromegaly.  
CV: RRR. normal S1, loud P2. ___ HSM at ___  
LUNGS: Crackles bilateral bases. No wheezes. Breathing 
comfortably.  
ABD: Nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXT: WWP, 1+ edema bilaterally. Full distal pulses bilaterally.  

No femoral bruits. Right AV fistula in the patient's wrist with 
a palpable thrill.  
SKIN: No rashes/lesions, ecchymoses.  
NEURO: A&Ox3. CN ___ grossly intact. Preserved sensation  
throughout. ___ strength throughout. ___ reflexes, equal ___.  

On discharge:
VS - Temp 98.3 BP 174/72 HR 72 RR 18 SpO2 95% RA  
General: well-appearing, NAD  
HEENT: MMM, EOMI right, left eye closed without eye patch  
Neck: Supple. JVP at angle of mandible.  
CV: RRR, S1/S2, I/VI systolic murmur at left sternal border  
Lungs: Crackles right base > left base. Good air movement.  
Abdomen: Obese. Soft, nontender. +BS. No palpable masses.  
Ext: No cyanosis. Trace edema bilaterally to mid-calf. Bilateral 
radial pulses 2+, palpable thrill and bruit auscultated over R 
forearm AV fistula  
Neuro: CN grossly intact. Vision decreased in right eye (patient 
states chronic)  
Skin: Xerosis over bilateral legs. No rashes or other lesions.  

 
Pertinent Results:
On admission:
___ 12:45PM BLOOD WBC-5.3 RBC-2.72* Hgb-8.0* Hct-26.2* 
MCV-96 MCH-29.3 MCHC-30.4* RDW-15.0 Plt ___
___ 12:45PM BLOOD Neuts-72.3* ___ Monos-4.9 
Eos-4.3* Baso-0.6
___ 12:45PM BLOOD ___ PTT-34.7 ___
___ 10:00AM BLOOD UreaN-60* Creat-4.7* Na-144 K-3.7 Cl-105 
HCO3-26 AnGap-17
___ 10:00AM BLOOD Calcium-8.3* Phos-4.6*
___ PPD planted and negative at 72 hours

At discharge:
___ 06:32AM BLOOD WBC-4.3 RBC-2.77* Hgb-8.3* Hct-25.7* 
MCV-93 MCH-29.9 MCHC-32.2 RDW-14.1 Plt ___
___ 06:32AM BLOOD Glucose-127* UreaN-48* Creat-4.7* Na-137 
K-3.9 Cl-100 HCO3-29 AnGap-12

In the interim:
___ 06:32AM BLOOD Calcium-8.6 Phos-4.5 Mg-2.0
___ 12:45PM BLOOD cTropnT-0.47*
___ 12:45PM BLOOD CK-MB-11*
___ 01:04PM BLOOD HBsAg-NEGATIVE HBsAb-NEGATIVE 
HBcAb-NEGATIVE

Microbiology:
Urine culture (___):
No evidence of deep vein thrombosis in the left upper extremity. 
 Moderate subcutaneous edema in the arm. 

Imaging:
ECG ___
Sinus rhythm. Prolonged Q-T interval. Possible left atrial 
abnormality. 
Non-specific inferolateral ST-T wave abnormalities. Compared to 
the previous tracing of ___ no significant change. 
  Intervals Axes 
Rate PR QRS QT/QTc P QRS T 
74 ___ 54 48 -20 

CXR ___  
Impression: Severe cardiomegaly with mild pulmonary vascular 
congestion. Continued elevation of the right hemidiaphragm again 
raises concern for a subpulmonic effusion. Bibasilar 
atelectasis.  

CT head without contrast ___  
Impresion: New hypodensity in the splenium of the corpus 
callosum, for which MRI is recommended. 

Tunneled dialysis catheter placement ___
Successful placement of a 15.5 ___ tunneled dialysis line.  
The tip of the catheter terminates in the right atrium. The 
catheter is ready for use. 

Neck soft tissue ultrasound ___
Minimal subcutaneous gas, within expected postprocedural limits. 
No soft 
tissue hematoma or abscess identified.  Anechoic area deep to 
catheter may be artifactual, but if there is continued concern 
for hematoma, neck CT would be necessary to evaluate. 

Left upper extremity venous ultrasound ___
No evidence of deep vein thrombosis in the left upper extremity. 
 Moderate subcutaneous edema in the arm. 

 
Brief Hospital Course:
Mr. ___ is a ___ with history of end stage renal disease 
who was admitted for nausea/vomiting/pruritus, as well as 
hypertensive emergency, with systolic blood pressures up to 
200-230s upon presentation. He was noted to be in progressive 
renal failure in urgent need of initiation of hemodialysis. 

ACTIVE ISSUES:
#Hypertensive emergency: Patient presented with systolic blood 
pressures up to 223/112 in the ED and troponinemia concerning 
for end-organ damage, though troponinemia confounded by ESRD. 
Cardiology evaluated the patient in the ED before admission and 
felt that there was no need to continue trending cardiac enzymes 
due to  low suspicion for acute coronary syndrome, advising 
instead improved blood pressure control. He did not endorse any 
dizziness, lightheadedness, chest pain, palpitations, or 
headaches upon presentation, and decreased vision bilaterally 
was unchanged from baseline and felt to be attributable to 
bilateral vitreous hemorrhage as below. Over the course of his 
stay, he was maintained on his home antihypertensive regimen, 
which included labetalol, hydralazine, lisinopril, and 
isosorbide, with addition of amlodipine for improved blood 
pressure control, with systolic blood pressures largely under 
170s at discharge. 

#End stage renal disease: On admission, patient was endorseing 
nausea, vomiting, and pruritus likely secondary to uremia. Also, 
he reported orthopnea and paroxysmal noctural dyspnea presumed 
to be secondary to volume overload. He was scheduled to have an 
___ tunneled line placed the morning after admission, as 
his AV fisula that was placed on ___ was not yet mature. 
Placement of the left-sided line was uneventful. He received 4 
sessions of HD in-house, and during each of the last 2 sessions, 
he had 4L volume taken off. Overall, he tolerated the sessions 
well. During session #4, his systolic blood pressure rose again 
to the 200s, and his anti-hypertensives which had not been 
administered prior to the session were given during dialysis. 
Systolic blood pressure decreased to 95, and UF was adjusted 
accordingly. He returned to the floor complaining of dizziness, 
which self-resolved within ___ hours. PPD placed and hepatitis 
serologies sent this admission, all of which returned negative. 
He was placed at an outpatient HD center on a 
___ schedule. He was discharged on 
___, and per discussion with renal, would initiate 
outpatient sessions on ___. He has follow-up 
scheduled with Dr. ___ his AV fistula; once that has 
adequately matured, patient's tunneled line can be discontinued. 
His sevelamer and calcitriol were continued throughout this 
stay.

#Left upper extremity swelling: Patient did complaint of left 
upper extremity swelling during this admission, which improved. 
He did have a left upper extremity ultrasound, which returned 
negative for DVT. Swelling was thought to be secondary to volume 
overload in the setting of need for initiation of dialysis.

#Visual changes: Patient reports decreased vision in his right 
eye, and was noted to have a right vitreous hemorrhage, possible 
secondary to diabetic retinopathy, on a prior admission. He was 
transported to the ophthalmology clinic during this admission 
for follow-up visits, as well as a laser procedure in the right 
eye. Patient tolerated the procedure well. He has a scheduled 
laser treatment for his left eye for the week after discharge, 
which also contains some degree of vitreous hemorrhage. He was 
instructed not to drive, and was discharged safely to ensure 
that someone could take care of him considering his visual loss 
on the right. 

# CT head changes/ splenium hypodensity: Patient received a CT 
head upon presentation to rule out intracranial hemorrhage/ 
increased intracranial pressure in the setting of hypertensive 
emergency. While CT was negative for intracranial hemorrhage, it 
did reveal a new hypodensity in the splenium of the corpus 
callosum in the absence of focal neurologic deficits, hence of 
unclear significance. An MRI could be considered for further 
work-up; however, the patient was not to receive gadolinium 
during his initial sessions of hemodialysis due to 
nephrotoxicity. If further evaluation is necessary in the 
future, nephrology will need to be consulted before any studies 
are ordered and obtained. 

INACTIVE ISSUES:
#Chronic Diastolic heart failure: Last echo demonstrated an EF 
of 50% and diastolic dysfunction with severe pulmonary 
hypertension and increased TR/MR. ___ continued his home 
diuretics of Torsemide and Metolazone during this admission, 
with continued urine output.

#Hyperlipidemia: Continued home Atorvastatin.

#Anemia: At baseline. Likely iron-deficiency complicated by CKD. 
We continued iron replacement, and maintained an active type and 
screen. Patient received 1 unit PRBC this admission, with 
appropriate response in hemoglobin and hematocrit. 

#Diabetes mellitus type 2: His last A1c 6.3% in ___. 
Complicated by diabetic retinopathy (likely) and diabetic 
nephropathy.  Patient was maintained on a humalon ISS in-house. 

TRANSITIONAL ISSUES:
-Patient will need close follow-up with nephrology at his 
outpatient dialysis appointments.
-He has follow-up scheduled at the ___ with Dr. 
___ his maturity of his fistula/ readiness for use will 
be assessed at that time.
-Patient should follow-up with his PCP to optimize blood 
pressure control regimen.
-Patient is already being seen in the ophthalmology clinic and 
being followed for his right eye vitreous hemorrhage, for which 
he received an initial laser treatment on this admission. Close 
follow-up is scheduled.
-MRI is advised for further characterization of corpus callosum 
lesion noted incidentally on admission CT, with gadolinium 
contraindicated in the initial sessions of hemodialysis (and 
perhaps indefinitely) due to nephrotoxicity; there were no clear 
focal neurologic deficits, with visual changes felt to be 
attributable to vitreous hemorrhage as above.
-No pending studies.
-Code status: Full 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 40 mg PO DAILY 
3. Calcitriol 0.25 mcg PO DAILY 
4. HydrALAzine 50 mg PO TID 
5. Isosorbide Dinitrate 40 mg PO TID 
6. Lisinopril 40 mg PO DAILY 
7. Ferrous Sulfate 325 mg PO BID 
8. Vitamin D 50,000 UNIT PO 1X/WEEK (MO) 
9. Torsemide 60 mg PO DAILY 
10. sevelamer CARBONATE 800 mg PO TID W/MEALS 
11. Metolazone 5 mg PO EVERY OTHER DAY 
12. Labetalol 400 mg PO TID 
13. Insulin SC 
      Sliding Scale
Insulin SC Sliding Scale using HUM Insulin

 
Discharge Medications:
1. Atorvastatin 40 mg PO DAILY 
2. Calcitriol 0.25 mcg PO DAILY 
3. Ferrous Sulfate 325 mg PO BID 
4. HydrALAzine 50 mg PO TID 
5. Isosorbide Dinitrate 40 mg PO TID 
6. Labetalol 400 mg PO TID 
7. Lisinopril 40 mg PO DAILY 
8. Metolazone 5 mg PO EVERY OTHER DAY 
9. sevelamer CARBONATE 800 mg PO TID W/MEALS 
10. Torsemide 60 mg PO DAILY 
11. Vitamin D 50,000 UNIT PO 1X/WEEK (MO) 
12. Amlodipine 10 mg PO DAILY 
RX *amlodipine 10 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0
13. Insulin SC 
      Sliding Scale

Fingerstick QACHS
Insulin SC Sliding Scale using HUM Insulin
14. Aspirin 81 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES: End stage renal disease on hemodialysis
Hypertensive emergency

SECONDARY DIAGNOSES: 
Heart failure with preserved ejection fraction
Hyperlipidemia
Anemia of chronic kidney disease
Diabetes mellitus type 2

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you while you were admitted to 
___ for worsening kidney failure and inititaion of 
hemodialysis.  You were found to have very high blood pressure 
at admission, causing your heart to work very hard. We increased 
your blood pressure medicines, and the interventional 
radiologists placed a dialysis line because your AV fistula was 
not mature yet.  You were started on hemodialysis for a total of 
four sessions during this admission.  

While you were admitted, you saw the ophthalmology doctors for 
follow/up for your right eye hemorrhage. You were seen in the 
office on ___ and returned for a follow-up visit on ___ 
for a second follow-up, as well as a laser eye treatment.

You had a CT scan of your head because we were concerned about 
your high blood pressure and your vision changes for the past 2 
months. We also saw a small change in a CT scan of your head, 
for which we recommend a follow-up MRI.  

Weigh yourself every morning, and please call your MD if your 
weight goes up more than 3 lbs
 
Followup Instructions:
___